US04529689
Preparation of Silver Hexadecylsulfinate
Taking material from Example 1, eight grams of sodium hexadecylsulfinate (0.026 moles) was dissolved in 300 ml deionized water at 45° to 50° C. When measured at 45° C. the pH was 9.0 and the millivolt reading, using a silver/silver sulfide electrode and a silver chloride/4M KCl reference electrode, was -24. The pH was adjusted to 6.9 with 1:20 HNO3 /H2O. A solution of 7 ml 3N AgNO3 and 200 ml H2O was added with stirring to this mixture in four portions of 50 ml each, stirring 2 minutes after each addition, and stirring 10 minutes after the final addition. Temperature was maintained at 40° to 45° C. The final mixture has a pH of 3.6 and a millivolt reading of +206° at 40° C. This corresponds to a pAg of 6.4.

reactant | sodium hexadecylsulfinate | 0.026 moles, eight grams | C(CCCCCCCCCCCCCCC)S(=O)[O-].[Na+]
reactant | silver silver sulfide | [Ag].[Ag]=S
reactant | silver chloride | 4M | [Ag]Cl
reactant | HNO3 H2O | [N+](=O)(O)[O-].O
reactant | AgNO3 | 3N, 7 ml | [N+](=O)([O-])[O-].[Ag+]
solvent | H2O | 200 ml | O | H2O
product | Silver Hexadecylsulfinate | C(CCCCCCCCCCCCCCC)S(=O)[O-].[Ag+] | InChI=1S/C16H34O2S.Ag/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19(17)18;/h2-16H2,1H3,(H,17,18);/q;+1/p-1
